US07576238B2
tert-Butyl 2-(2-ethylamino-indan-5-ylsulfanyl)-2-methyl-propionate
N-(5-Mercapto-indan-2-yl)-acetamide (330.0 g, 1.59 mol) was dissolved in a warm THF (1.65 L) at 50° C. The solution was then slowly added to LAH solution (1 M in THF) (2.385 L, 2.385 mol) at about 60-66° C. over 25 minutes to allow gentle reflux and slow gas evolution. After addition, the light yellow suspension was stirred under reflux for 4 hours. The reaction was cooled to about 5-7° C. in an ice-water bath. The reaction was quenched by the slow addition of methanol (203.7 g, 6.36 mol) under a nitrogen atmosphere and the reaction temperature was maintained below 25° C. by adjusting the addition rate. After quenching, the resulted green suspension was cooled to 5-7° C. and treated with tert-butyl 2-bromo-2-methylpropionate (354.7 g, 1.59 mol). The resulted mixture was warmed to room temperature while stirring and then maintained with stirring at room temperature for 2 hours. The reaction mixture was treated by the slow addition of H2O (90.6 mL) and 15% of aqueous NaOH (90.6 mL) sequentially. The resulted granular solid was removed by vacuum filtration through a 3 L coarse frit funnel lined with Celite filter aid. The filter cake was rinsed twice with THF (2×500 mL). The combined filtrate was concentrated in vacuo to remove about 70-80% of THF. The filter cake was suspended in EtOAc (2 L) and stirred for 30 minutes. The suspension was filtered through a 3 L coarse frit funnel. The filtrate was combined with the crude concentrated THF solution obtained above. The combined organic layer was washed with H2O (2 L). After separation of layers, the organic layer was concentrated in vacuo at 50° C. to remove the most of volatiles. The concentrated solution was diluted with anhydrous ethanol (800 mL) and re-concentrated to yield a purple oil. The crude product was used for the next step without further purification.

reactant | N-(5-Mercapto-indan-2-yl)-acetamide | 1.59 mol, 330.0 g | SC=1C=C2CC(CC2=CC1)NC(C)=O | C11H13NOS
reactant | LAH | 2.385 mol, 1 M, 2.385 L | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methanol | 6.36 mol, 203.7 g | CO | CH4O
reactant | tert-butyl 2-bromo-2-methylpropionate | 1.59 mol, 354.7 g | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
reactant | NaOH | 90.6 mL | [OH-].[Na+]
solvent | THF | 1.65 L | C1CCOC1 | C4H8O
solvent | H2O | 90.6 mL | O | H2O
product | tert-Butyl 2-(2-ethylamino-indan-5-ylsulfanyl)-2-methyl-propionate | C(C)NC1CC2=CC=C(C=C2C1)SC(C(=O)OC(C)(C)C)(C)C | C19H29NO2S
